US07232913B2
Using a modified literature method (Moon, K.-J.; Shim, H.-K.; Lee, K.-S.; Zieba, J.; Prasad, P. N. Macromolcules 1996, 29, 861), the reaction of aniline with 6-chloro-1-hexanol in butanol provided N,N-bis(6-hydroxyhexyl)-aniline in 70% yield. A 100 mL two-necked flask containing 15 mL of dry DMF was cooled down to 0° C. with an ice bath. To this solution, 4.7 g (30.7 mmol) of phosphorous oxychloride was added dropwise and the mixture was stirred for 30 min at 0° C. 3 g (10.2 mmol) of N,N-bis(6-hydroxyhexyl)-aniline in dry DMF (15 mL) was added to the above solution and heated to 90° C. for 2 hrs. The reaction solution was cooled down to room temperature, poured into ice water and neutralized to pH 6-8 with saturated sodium hydroxide aqueous solution. The resulting solution was extracted with methylene chloride and then dried over magnesium sulfate. The crude compound was purified by silica gel column chromatography (ethyl acetate/hexane=1:5) to yield 2.3 g (63%) of pure light brown oil, (9). 1H-NMR (200 MHz, CDCl3): δ 9.71 (s, 1H, —CHO), 7.71 (d, 2H, J=9.0 Hz), 664 (d 2H, J=9.0 Hz), 3.55 (t, 4H, —CH2Cl, J=6.6 Hz), 3.35 (t, 4H, —NCH2—, J=7.6 Hz), 1.80 (m, 4H), 1.68-1.37 (m, 12H). 13C-NMR (100 MHz, CDCl3): δ 190.2, 152.7, 132.5, 124.9, 110.9, 51.1, 45.2, 32.7, 27.2, 26.9, 26.5. HRMS (EI): m/z=357.1617 (M+), Δ=2.6 ppm.

reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 6-chloro-1-hexanol | ClCCCCCCO | C6H13ClO
solvent | butanol | C(CCC)O | C4H10O
product | N,N-bis(6-hydroxyhexyl)-aniline | 70% yield | OCCCCCCN(C1=CC=CC=C1)CCCCCCO | C18H31NO2
